US08119644B2
A mixture of 3-(4-isopropyl-[1,2,3] thiadiazol-5-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid ethyl ester (250 mg, 0.68 mmol) in 10 mL THF was cooled to 0° C., and LiOH (0.5 mL of 2N aqueous solution) was added. The reaction mixture was allowed to warm to room temperature and was stirred for 16 hours. The reaction mixture was concentrated under reduced pressure and the residue was acidified with 3N aqueous HCl to a pH of 6. The mixture was extracted with ethyl actetate, and the combined organic fractions were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to give 200 mg of 3-(4-isopropyl-[1,2,3] thiadiazol-5-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid, MS (M+H)=340.

reactant | 3-(4-isopropyl-[1,2,3] thiadiazol-5-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid ethyl ester | 0.68 mmol, 250 mg | C(C)OC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)C1=C(N=NS1)C(C)C)=O | C20H21N3O2S
reactant | LiOH | 2N, 0.5 mL | [Li+].[OH-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(4-isopropyl-[1,2,3] thiadiazol-5-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid | 200 mg | C(C)(C)C=1N=NSC1C=1C=C(C(=O)O)C=C(C1)C1=NC=C(C=C1)C | C18H17N3O2S
